US05130430
To Diphenylphosphorylazide (5.75 g) in anhydrous toluene (50 mL) at 100° C. under nitrogen was added dropwise a solution containing Ethyl-3-nitro-4-carboxybenzoate (5 gm) and triethylamine (4 mL) in anhydrous toluene (50 mL). The mixture was stirred for 1 hr followed by the addition of aniline (5 mL), and the reaction was allowed to cool to room temperature (40 min). Ethyl acetate (300 mL) was added and the solution was washed successively with 1N HCl (300 mL), water (300 mL), 1N NaOH (300 mL) and water (300 mL). The organic layer was dried and the solvent was removed in vacuo. To the resulting oil was added diethyl ether (50 mL), and the resulting solid was collected and dried yielding N-(2-Nitro-5-methylphenyl)-N'-phenyl-urea as a white solid.

reactant | Diphenylphosphorylazide | 5.75 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Ethyl-3-nitro-4-carboxybenzoate | 5 gm | C(C)OC(C1=CC(=C(C=C1)C(=O)O)[N+](=O)[O-])=O | C10H9NO6
reactant | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
reactant | aniline | 5 mL | NC1=CC=CC=C1 | C6H7N
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-Nitro-5-methylphenyl)-N'-phenyl-urea | [N+](=O)([O-])C1=C(C=C(C=C1)C)NC(=O)NC1=CC=CC=C1 | C14H13N3O3
